US06410585B1
5-{(2S)-2-({(2S)-2-[(tert-Butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-[(3,3-diphenylpropoxy)amino]-3-oxopropyl}-2-(carboxymethoxy)benzoic Acid
Synthesis was performed from (2S)-2-({(2S)-2-[(tert-butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-[3-(methoxycarbonyl)-4-(2-methoxy-2-oxoethoxy)phenyl]propanoic acid (85 mg, 0.15 mmol) and 3,3-diphenylpropoxyamine hydrochloride (48 mg, 0.18 mmol) according to Method C with HPLC purification to give the title compound (29 mg). 7.75 (s, 1H), 7.33 (d, J=9.5 Hz, 1H), 6.87 (d, J=8.3 Hz, 1H), 4.71 (s, 2H), 4.39 (dd, 1H), 4.25 (m, 1H), 4.11 (t, J=8.0 Hz, 1H), 3.57 (m, 2H), 3.01 (m, 2H), 2.93 (m, 1H), 2.75 (m, 1H), 2.24 (m, 2H), 1.35 (s, 9H); IR (KBr) 3274, 2978, 1684 1651 cm−1; HRMS m/z 739.3126 (calc. of monoisotopic mass for C41H45N3O10 gives 739.3105).

reactant | (2S)-2-({(2S)-2-[(tert-butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-[3-(methoxycarbonyl)-4-(2-methoxy-2-oxoethoxy)phenyl]propanoic acid | 0.15 mmol, 85 mg | C(C)(C)(C)OC(=O)N[C@H](C(=O)N[C@H](C(=O)O)CC1=CC(=C(C=C1)OCC(=O)OC)C(=O)OC)CC1=CC=CC=C1 | C28H34N2O10
reactant | 3,3-diphenylpropoxyamine hydrochloride | 0.18 mmol, 48 mg | Cl.C1(=CC=CC=C1)C(CCON)C1=CC=CC=C1
product | 5-{(2S)-2-({(2S)-2-[(tert-Butoxycarbonyl)amino]-3-phenylpropanoyl}amino)-3-[(3,3-diphenylpropoxy)amino]-3-oxopropyl}-2-(carboxymethoxy)benzoic Acid | 29 mg | C(C)(C)(C)OC(=O)N[C@H](C(=O)N[C@@H](CC=1C=CC(=C(C(=O)O)C1)OCC(=O)O)C(=O)NOCCC(C1=CC=CC=C1)C1=CC=CC=C1)CC1=CC=CC=C1 | C41H45N3O10
